US07211601B2
(3EZ,5S)-5-{[4-(3 4-dichlorophenyl)-1-piperazinyl]carbonyl}-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-3-pyrrolidinone O-benzyloxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and 1-(3,4-dichlorophenyl)piperazine the title compound was obtained in 47% purity by LC/MS. MS(ESI+): m/z=639.8.

reactant | (2S,4EZ)-4[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | 1-(3,4-dichlorophenyl)piperazine | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
product | (3EZ,5S)-5-{[4-(3 4-dichlorophenyl)-1-piperazinyl]carbonyl}-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-3-pyrrolidinone O-benzyloxime | C(C1=CC=CC=C1)ON=C1CN([C@@H](C1)C(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)Cl)C(=O)C=1C(OC(=CC1)CCCCC)=O | C33H36Cl2N4O5
